US04014677
5 g of 2-methylthio-6-chloro-5-nitro-4-ethylamino-pyrimidine are dissolved in 50 ml of absolute alcohol and 2.5 g of triethylamine are then added. Then 1 g of methylmercaptan is passed in at 25° to 30° C over a period of 10 minutes. The mixture is stirred at room temperature for 1/2 hour and subsequently evaporated by rotary evaporation. The residue is suspended in 50 ml of water and filtered off with suction and washed once with water. The product is dried in a water yet vacuum and at room temperature over phosphorous pentoxide for 16 hours to yield 2,6-di-methylthio-5-nitro-4-ethylamino-pyrimidine with a melting point of 149°-150° C.

reactant | 2-methylthio-6-chloro-5-nitro-4-ethylamino-pyrimidine | 5 g | CSC1=NC(=C(C(=N1)NCC)[N+](=O)[O-])Cl | C7H9ClN4O2S
reactant | methylmercaptan | 1 g | CS | CH4S
solvent | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
product | 2,6-di-methylthio-5-nitro-4-ethylamino-pyrimidine | CSC1=NC(=C(C(=N1)NCC)[N+](=O)[O-])SC | C8H12N4O2S2
